US09284333B2
To a solution of 8-((R)-1-phenyl-propylcarbamoyI)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carboxylic acid (Comp. No. 11a) (100 mg, 0.335 mmol) in dimethylformamide (2.2 ml) was added 1-hydroxybenzotriazole (45 mg, 0.335 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (64 mg, 0.335 mmol). The mixture was stirred for 1 h at 25° C., then (S)-2-methylamino-propionic acid ethyl ester hydrochloride (56 mg, 0.335 mmol) (prepared from (S)-2-methylamino-propionic acid by heating in ethanol and 4 M hydrogen chloride in dioxane for 18 h and evaporation of the solvents) and triethylamine (62 mg, 0.61 mmol) were added and the mixture was stirred at 25° C. overnight. Another portion of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (13 mg, 0.067 mmol) and (S)-2-methylamino-propionic acid ethyl ester hydrochloride (12 mg, 0.067 mmol) were added and the mixture was stirred for 1 h. After filtration of the mixture through a short filter cartridge the solution was purified by reverse phase HPLC (acetonitrile/water gradient with 0.1% trifluoroacetic acid) to give 68 mg (51%) (S)-2-{Methyl-[8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carbonyl]-amino}-propionic acid ethyl ester. LC/MS (method 2): Rt=1.11 min; m/z=442.3 (M+H+). 1H-NMR: δ (ppm)=8.46 (1H, t), 8.21 (1H, d), 7.35-7.36 (3H, m), 7.30 (2H, t), 7.21 (1H, t), 4.91 (2H, dd), 4.82 (1H, q), 4.19 (2H, t), 4.11 (2H, q), 3.90-3.92 (4H, m), 1.71-1.83 (2H, m), 1.21 (3H, t), 0.88 (3H, t).

reactant | 8-((R)-1-phenyl-propylcarbamoyI)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carboxylic acid | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)C(=O)O | C18H20N2O4
reactant | 1-hydroxybenzotriazole | 0.335 mmol, 45 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.335 mmol, 64 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (S)-2-methylamino-propionic acid ethyl ester hydrochloride | 0.335 mmol, 56 mg | Cl.C(C)OC([C@H](C)NC)=O
reactant | (S)-2-methylamino-propionic acid | CN[C@H](C(=O)O)C | C4H9NO2
reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | triethylamine | 0.61 mmol, 62 mg | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.067 mmol, 13 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | (S)-2-methylamino-propionic acid ethyl ester hydrochloride | 0.067 mmol, 12 mg | Cl.C(C)OC([C@H](C)NC)=O
solvent | dimethylformamide | 2.2 ml | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-2-{Methyl-[8-((R)-1-phenyl-propylcarbamoyl)-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6-carbonyl]-amino}-propionic acid ethyl ester | 68 mg, 51% | C(C)OC([C@H](C)N(C(=O)C1=CC(=C2COCCN21)C(N[C@H](CC)C2=CC=CC=C2)=O)C)=O | C24H31N3O5
